US07407949B2
15D: 1-Methyl-5-(3-methyl-4-(piperazine-1-carbonylaminomethyl)benzoyl)-4,10-dihydropyrazolo[5,4-b][1,5]benzodiazepine hydrochloride
A solution of 5-(4-(4-(tert-butyloxycarbonyl)piperazine-1-carbonylaminomethyl)-3-methylbenzoyl)-1-methyl-4,10-dihydropyrazolo[5,4-b][1,5]benzodiazepine (160 mg, 0.29 mmol) in 4N HCl/dioxan (15 ml) was stirred at room temperature for 30 min then concentrated in vacuo. The residue was azeotroped with diethyl ether to give a white solid identified as 1-methyl-5-(3-methyl-4-(piperazine-1-carbonylaminomethyl)-benzoyl)-4,10-dihydropyrazolo[5,4-b][1,5]hydrochloride (130 mg, 90%).

reactant | 5-(4-(4-(tert-butyloxycarbonyl)piperazine-1-carbonylaminomethyl)-3-methylbenzoyl)-1-methyl-4,10-dihydropyrazolo[5,4-b][1,5]benzodiazepine | 0.29 mmol, 160 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C(=O)NCC1=C(C=C(C(=O)N2CC3=C(NC4=C2C=CC=C4)N(N=C3)C)C=C1)C | C30H37N7O4
reactant | HCl dioxan | 4N, 15 ml | Cl.O1CCOCC1
product | 1-Methyl-5-(3-methyl-4-(piperazine-1-carbonylaminomethyl)benzoyl)-4,10-dihydropyrazolo[5,4-b][1,5]benzodiazepine hydrochloride | Cl.CN1N=CC2=C1NC1=C(N(C2)C(C2=CC(=C(C=C2)CNC(=O)N2CCNCC2)C)=O)C=CC=C1 | InChI=1S/C25H29N7O2.ClH/c1-17-13-18(7-8-19(17)14-27-25(34)31-11-9-26-10-12-31)24(33)32-16-20-15-28-30(2)23(20)29-21-5-3-4-6-22(21)32;/h3-8,13,15,26,29H,9-12,14,16H2,1-2H3,(H,27,34);1H
